US04089961
A stirred mixture of 3.96 g. (0.01 mole) of 3-(2-bromothioxanthen-9-ylidene)quinolizidine, 2.70 g. (0.015 mole) of cuprous cyanide, 50 mg. of cupric sulfate, 50 mg. of sodium cyanide in 40 ml. of dimethylformamide is heated at reflux temperature for eighteen hours. The cooled reaction mixture is then poured into 200 ml. of 1 M sodium cyanide. The resulting mixture is extracted with ether. After being washed with an aqueous solution of sodium cyanide and water, the ether solution is dried over magnesium sulfate. The dried solution is concentrated. The residual liquid is chromatographed on an alumina column using ether as the eluate. Evaporation of the appropriate fractional eluant gives 3-(2-cyanothioxanthen-9-ylidene)quinolizidine. A solution of the product in ethanol is treated with a molar equivalent of fumaric acid. The resulting crystals are recrystallized from ethanol to give 3-(2-cyanothioxanthen-9-ylidene)quinolizidine fumarate.

reactant | 3-(2-bromothioxanthen-9-ylidene)quinolizidine | 0.01 mole | BrC1=CC=2C(C3=CC=CC=C3SC2C=C1)=C1CCC2CCCCN2C1 | C22H22BrNS
reactant | sodium cyanide | [C-]#N.[Na+]
reactant | sodium cyanide | 1 M | [C-]#N.[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 3-(2-cyanothioxanthen-9-ylidene)quinolizidine | C(#N)C1=CC=2C(C3=CC=CC=C3SC2C=C1)=C1CCC2CCCCN2C1 | C23H22N2S
